US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
4-Allylsulfanylmethyl-2,2-dimethyl-6-phenyl-1,2-dihydroquinoline 40 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline, 46 mg of potassium carbonate, and 44 μL of allyl mercaptan reacted to give 5 mg of the title compound as an oil.

reactant | 4-Allylsulfanylmethyl-2,2-dimethyl-6-phenyl-1,2-dihydroquinoline | 40 mg | C(C=C)SCC1=CC(NC2=CC=C(C=C12)C1=CC=CC=C1)(C)C | C21H23NS
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | potassium carbonate | 46 mg | C([O-])([O-])=O.[K+].[K+]
reactant | allyl mercaptan | 44 μL | C(C=C)S | C3H6S
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 5 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
